US05688803
8,9-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
1.0 g (0.0030 mol) of ethyl 2-hydoxy-6,7-dimethyl-quinazolin-4-yl-carbazate in 57 ml of dimethylformamide was boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off and dried in a vacuum. There were obtained white crystals which were recrystallized from dimethylformamide/methanol. Yield: 0.43 g (52%) of 8,9-dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as yellowish crystals; m.p. >350° C.

reactant | ethyl 2-hydoxy-6,7-dimethyl-quinazolin-4-yl-carbazate | 0.0030 mol, 1.0 g | OC1=NC2=CC(=C(C=C2C(=N1)N(C(=O)OCC)N)C)C | C13H16N4O3
reactant | dimethylformamide | 57 ml | CN(C=O)C | C3H7NO
product | 8,9-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | CC=1C(=CC=2C=3N(C(NC2C1)=O)C(NN3)=O)C | C11H10N4O2
